US08440830B2
To a solution of compound 5-(tert-butoxycarbonyl)-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (1.0 eq) in DMF was added DCC (1.3 eq.), and HOBt (1.3 eq) and stirred for 1 hr. Monoboc phenylene diamine was added and reaction was stirred for 48 hrs. Reaction mixture was then quenched with water and extracted with ethyl acetate, dried over sodium sulphate and concentrated to dryness. Crude mass was then purified by silica gel column chromatography to afford 2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-1-methyl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester which was then reacted with hydrochloric acid saturated diethyl ether to get N-(2-aminophenyl)-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxamide.

reactant | 5-(tert-butoxycarbonyl)-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | 1.0 eq | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C(=C2)C(=O)O)C | C14H20N2O4
reactant | DCC | 1.3 eq. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 1.3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Monoboc phenylene diamine | C(=O)(OC(C)(C)C)NC1=C(C=CC=C1)N | C11H16N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-1-methyl-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C(=C2)C(NC2=C(C=CC=C2)NC(=O)OC(C)(C)C)=O)C | C25H34N4O5
